US08445487B2
4-(2-Chloro-9H-purin-6-yl)morpholine (75 mg) was reacted with 1-(bromomethyl)-4-fluorobenzene via General Procedure C to give 4-(2-chloro-9-(4-fluorobenzyl)-9H-purin-6-yl)morpholine which was reacted with 150 mg tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl carbonate via General Procedure A and purified via reverse phase HPLC to give 50 mg of 142 as a white solid. MS (Q1) 406.2 (M)+.

reactant | 4-(2-Chloro-9H-purin-6-yl)morpholine | 75 mg | ClC1=NC(=C2N=CNC2=N1)N1CCOCC1 | C9H10ClN5O
reactant | 1-(bromomethyl)-4-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
product | 4-(2-chloro-9-(4-fluorobenzyl)-9H-purin-6-yl)morpholine | ClC1=NC(=C2N=CN(C2=N1)CC1=CC=C(C=C1)F)N1CCOCC1 | C16H15ClFN5O
